Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-7.2655378511
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[H:4],3.9760396603800015
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10]>>[C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10].[H:1],5.83135596631
[C:4]([H:5])[H:6].[H:1][O:2][C:3]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9],-5.60831061243
[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.74450460983
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:12][H:13],6.43430066653
[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.91822216512
[H:1][C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[O:14][H:15].[H:1][C:2],4.83460995
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[O:1],7.04974831098
[H:16].[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.75142721829
[C:2]#[C:3][O:4][C:5][O:6][H:7].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],-5.85237537651
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.94911305027
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[O:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7],0.55927825456
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8])([H:9])[H:10]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:7]([C:8])([H:9])[H:10].[H:6],2.42884259267
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:7](\[H:8])[C:9]([H:10])[H:11].[H:6],3.32927772399
[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11],-1.02734644578
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.4066183075299998
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],0.467281896921
[C:1]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:2]>>[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-6.434698180830001
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.9707844041
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.81566597132
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4],4.42702348048
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.64670257798
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],4.2991006272000005
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.24118586147
[C:1]#[C:2][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.0971366942900005
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.78571553
[C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.958158247080001
[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.64491272873
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.03927271345
